US09303007B2
TFA (1 mL, 12.98 mmol) was added dropwise to a solution of (1R,3S,5R)-tert-butyl 3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (450 mg, 1.20 mmol) in DCM (5 mL) at room temperature. The mixture was stirred for 2 h at room temperature, then, the volatiles were removed and the residue was taken in MeOH (5 mL) and filtered through a Strata XC MCX cartridge. The cartridge was washed with methanol (30 mL) and the compound was release from the cartridge by eluting with a solution of 2M of ammonia/methanol (40 mL) and concentrated to give (1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane (283 mg, 1.03 mmol, 86% yield) as white solid. LC-MS retention time 0.448 min; m/z 275.94 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% methanol/90% water/0.1% TFA and Solvent B was 10% water/90% methanol/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 7.17 (s, 1H), 4.20 (dd, J=10.4, 7.3 Hz, 1H), 3.08 (td, J=6.2, 2.6 Hz, 1H), 2.38 (dd, J=12.5, 7.3 Hz, 1H), 2.19 (ddd, J=12.7, 10.5, 4.9 Hz, 1H), 1.68-1.74 (m, 1H), 0.85 (ddd, J=6.6, 4.4, 2.8 Hz, 1H), 0.61-0.67 (m, 1H).

reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (1R,3S,5R)-tert-butyl 3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 1.20 mmol, 450 mg | IC1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C13H18IN3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane | 1.03 mmol, 283 mg, 86% yield | IC1=CN=C(N1)[C@H]1N[C@@H]2C[C@@H]2C1 | C8H10IN3
